Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dizziness/dark stools
 
Major Surgical or Invasive Procedure:
None this hospitalization
 
History of Present Illness:
___ w/ PAD, HTN, HLD, dilated cardiomyopathy, Stage 3 CKD and 
recent admission for BRBPR (___) who presents for 1 episode 
of black diarrhea. He felt dizzy/lightheaded the following 
morning and had unsteady gait, although says he woke up multiple 
times overnight to go to the bathroom and was not dizzy then. He 
reports taking 400-800 mg ibuprofen per day for back pain as 
well as 325 mg aspirin. He was seen by GI in ED who reported the 
presence of external hemorrhoids and BRBPR. The source of 
bleeding was not visualized but was believed to be hemorrhoidal. 
He was started on IV pantoprazole 40 mg. His Hgb was at his 
baseline (12.8).

Of note, he was recently admitted (___) with BRBPR associated 
with constipation and thought to be ___ external hemorrhoidal 
bleeding in the setting of Plavix therapy for RLE stent. He 
received 1L NS but no blood products and his Plavix was 
discontinued.

In the ED, initial vitals were:  0 97.5 60 158/63 20 99% RA 
 
On the floor, initial vitals were: 97.7 69 156/77 18 100% RA  
 
Currently, he no longer has lightheadedness although has been 
sitting for a long time. No bowel movements since yesterday 
evening. No abdominal pain. Endorses frequently needing to 
strain for BM. Feels like his bladder is full but has difficulty 
emptying. No f/c/s. 

ROS:  
(+) Per HPI, has chronic sinus congestion,   
(-) Denies fever, chills, night sweats, Denies headache. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No dysuria. Denies arthralgias or myalgias.  

Otherwise a 10 point ROS is negative. 

 
Past Medical History:
Dilated cardiomyopathy (EF 50%)
Hypertension
PAD (right SFA PTCA/stent ___
Hyperlipidemia
Chronic kidney disease (GFR 44) 
Basal cell skin cancer
Back pain
Paget's disease

 
Social History:
___
Family History:
Mother died of rectal cancer in her ___. No other family history 
of malignancy of CV disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VS: T: 97.7 BP: 156/77 P: 69 R: 18 O2: 100 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Obese abdomen, soft, non-tender, bowel sounds present, no 
rebound tenderness or guarding  
EXT: Warm, well perfused, 1+ pulses, no edema   
NEURO: AOx3, MAE  

DISCHARGE PHYSICAL EXAM:
==========================
VS:  T 97.7-97.9 BP 156-167/68-77 HR 58-69 RR 18 SaO2% 100 RA
I/O (8h): 1000/775
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: Obese abdomen, soft, non-tender, bowel sounds present, no 
rebound tenderness or guarding  
EXT: Warm, well perfused, 1+ pulses, no edema   
NEURO: AOx3, MAE  
 
Pertinent Results:
ADMISSION LABS:
======================
___ 10:48AM BLOOD WBC-9.6 RBC-5.83 Hgb-12.8* Hct-42.8 
MCV-73* MCH-22.0* MCHC-29.9* RDW-17.8* RDWSD-42.0 Plt ___
___ 10:48AM BLOOD Neuts-51.7 ___ Monos-7.1 Eos-2.5 
Baso-0.6 Im ___ AbsNeut-4.96 AbsLymp-3.63 AbsMono-0.68 
AbsEos-0.24 AbsBaso-0.06
___ 10:48AM BLOOD ___ PTT-23.9* ___
___ 10:48AM BLOOD Glucose-108* UreaN-28* Creat-1.5* Na-140 
K-5.3* Cl-108 HCO3-19* AnGap-18
___ 10:48AM BLOOD ALT-14 AST-30 AlkPhos-356* TotBili-0.4
___ 10:48AM BLOOD Albumin-4.0 Calcium-9.1 Phos-3.3 Mg-2.1
___ 06:46PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:46PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 06:46PM URINE RBC-2 WBC-5 Bacteri-FEW Yeast-NONE Epi-<1

OTHER PERTINENT LABS:
======================
___ 10:48AM BLOOD 25VitD-27*

MICROBIOLOGY:
====================== 
___ 6:46 pm URINE      Source: ___. 
                          **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

IMAGING/STUDIES:
======================
Conclusions   
 The left atrial volume index is moderately increased. The right 
atrium is moderately dilated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global systolic function 
(LVEF>55%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The aortic valve 
leaflets (3) are mildly thickened. No aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Mild (1+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is a trivial/physiologic pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Mild mitral regurgitation. Mild pulmonary artery systolic 
hypertension. Increased PCWP. 

Compared with the report of the prior study (images unavailable 
for review) of ___, the findings are similar.

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.   

DISCHARGE LABS:
======================
___ 05:50AM BLOOD WBC-7.7 RBC-5.42 Hgb-11.9* Hct-39.9* 
MCV-74* MCH-22.0* MCHC-29.8* RDW-16.8* RDWSD-42.1 Plt ___
___ 05:50AM BLOOD Glucose-95 UreaN-22* Creat-1.3* Na-140 
K-4.0 Cl-105 HCO3-25 AnGap-14
___ 05:50AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.___ with PAD, HTN, HLD, dilated cardiomyopathy, Stage 3 CKD and 
recent admission for BRBPR (___) who presented with 1 episode 
of black diarrhea and complaint of lightheadedness.

# Lightheadedness. Patient described new lightheadedness the 
morning after his episode of black diarrhea, however he did get 
up multiple times during the night to urinate without any 
lightheadedness. With his interval of no lightheadedness and 
stable hemoglobin compared to baseline, lightheadedness due to 
GIB was thought to be unlikely. Instead, he was thought to have 
orthostatic hypotension, possibly exacerbated by his 
antihypertensive medications. He was recorded to have 
orthostatic hypotension on the morning of ___. He was 
continued on his antihypertensives but scheduled with cardiology 
and primary care as an outpatient to discuss possibly decreasing 
them. Given his history of cardiomyopathy and concern for 
arrhythmia he was monitored on tele (no abnormalities noted) and 
he had an echo done which showed EF>55%, stable from prior.

# Melena. Patient has a history of BRBPR likely secondary to 
hemorrhoids but concern for more significant bleeding given his 
report of melena so GI recommended admission. He had no 
additional bleeding or dark stools during this admission. His 
H/H downtrended on the morning of ___ but with similar 
downtrend of WBC and platelets so this was thought to be 
dilutional. He had a colonoscopy in ___ that was normal but was 
recommended to get a repeat in ___ years due to a family history 
of colon cancer. He was set up with an outpatient GI appointment 
for colonoscopy at discharge. 
 
# Paget's disease of bone. Patient was noted to have elevated 
Alk phos (356 on admission). This was also elevated in ___ 
(443) and has been elevated as far back as ___. He had a CT 
scan showing Paget's disease of left pelvis ___. He has a 
normal calcium and borderline low vitamin D (27). It is possible 
that his chronic back pain is related to Paget's disease and 
that he might benefit from treatment. He was scheduled with 
endocrinology as an outpatient. 

Chronic issues: 
# Dilated cardiomyopathy (EF 50%). Patient continued on home 
nifedipine, spironolactone, enalapril. TTE done which showed EF 
55%, no change from prior TTE.

# CKD. Baseline Cr. 1.3-1.5. Cr at baseline and stable this 
admission.

# HTN. Patient continued on antihypertensive regimen as listed 
above.

# HLD. Patient continued on home atorvastatin.

# BPH. Patient continued on home tamsulosin.

# Hemorrhoids. Patient continued on home hydrocortisone cream.

# Transitional issues:
-Given patient's lightheadedness (worse in the morning), may 
want to consider lowering dose of his antihypertensive 
(particularly his evening nifedipine).
-Patient found to have occasional gait instability at baseline, 
advised to use walker at home and continue outpatient ___.
-On a CT A/P from ___ done at ___, the patient 
was noted to have lesion of the left pelvis demonstrating Paget 
Disease (which is consistent with his chronically elevated 
alkaline phosphatase). He should follow up with endocrinology 
for this finding. Specifically, it would be worthwhile to 
determine if his back pain is ___ to Paget's.
-TTE performed as inpatient shows: EF>55%, Mild symmetric left 
ventricular hypertrophy with preserved regional and global 
biventricular systolic function. Mild mitral regurgitation. Mild 
pulmonary artery systolic hypertension. Increased PCWP.
-Patient should have a colonoscopy as an outpatient
-Patient had been taking 400-800 mg ibuprofen per day for back 
pain and was advised to stop taking all NSAIDs given melena
-Code: Full
-Contact: Daughter ___ is an ___ at ___ and serves as 
HCP: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE Frequency 
is Unknown 
2. Enalapril Maleate 10 mg PO BID 
3. Hydrocortisone (Rectal) 2.5% Cream ___AILY 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Timolol Maleate 0.25% 1 DROP RIGHT EYE BID 
6. NIFEdipine CR 60 mg PO DAILY 
7. NIFEdipine CR 90 mg PO DAILY 
8. Atorvastatin 20 mg PO QPM 
9. Spironolactone 100 mg PO DAILY 
10. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
12. Tamsulosin 0.4 mg PO QHS 
13. Aspirin 325 mg PO DAILY 
14. Penicillin V Potassium 500 mg PO Q8H tooth infection 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP RIGHT EYE BID 
4. Enalapril Maleate 10 mg PO BID 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Hydrocortisone (Rectal) 2.5% Cream ___AILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP RIGHT EYE QHS 
8. Penicillin V Potassium 500 mg PO Q8H tooth infection 
9. Spironolactone 100 mg PO DAILY 
10. Tamsulosin 0.4 mg PO QHS 
11. Timolol Maleate 0.25% 1 DROP RIGHT EYE BID 
12. NIFEdipine CR 90 mg PO DAILY 
13. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN pain 
14. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0
15. NIFEdipine CR 60 mg PO DAILY 
16. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Lightheadedness
Melena   

Secondary diagnoses:
Dilated cardiomyopathy
Chronic kidney disease
Peripheral arterial disease
Paget disease of bone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were in the hospital at ___ 
because you were feeling dizzy and had one dark stool. You did 
not have any more bloody bowel movements while in the hospital 
and your dizziness improved. You were most likely dizzy because 
of low blood pressure when you stand up. This may be due to 
dehydration as well as some of the blood pressure medications 
that you take. Your heart was monitored throughout your stay and 
did not show any irregular beats, and your echocardiogram was 
stable. You should be careful to take your time after sitting up 
before trying to stand. You were also found to be unsteady on 
your feet. You should use your walker when walking as this will 
help prevent falls and continue physical therapy.  

You should get a colonoscopy due to the dark stool that you had. 
You may also be able to help prevent these episodes by 
preventing constipation. You should take Dulcolax and Miralax 
every day as prescribed unless you are having diarrhea. You 
should also stop taking all ibuprofen (as well as similar 
medications such as Aleve, Advil, and Motrin) since this can 
cause bleeding from the stomach.  

Lastly, you should follow up with an endocrinologist to 
determine if you have Paget's Disease, which is a bone disease 
that may explain your back pain. You have an appointment listed 
below. 

It has been a pleasure participating in your care. We wish you 
all the ___ in the future.

Please give this discharge paperwork to your daughter. Below is 
a list of transitional issues for you to follow up on with your 
doctors:
Transitional issues:
-Given patient's lightheadedness (worse in the morning), may 
want to consider lowering dose of his antihypertensive 
(particularly his evening nifedipine).
-Patient found to have occasional gait instability at baseline, 
advised to use walker at home and continue outpatient ___. 
-On a CT A/P from ___ done at ___, the patient 
was noted to have lesion of the left pelvis demonstrating Paget 
Disease (which is consistent with his chronically elevated 
alkaline phosphatase). He should follow up with endocrinology 
for this finding. Specifically, it would be worthwhile to 
determine if his back pain is ___ to Paget's.
-TTE performed as inpatient shows: EF>55%, Mild symmetric left 
ventricular hypertrophy with preserved regional and global 
biventricular systolic function. Mild mitral regurgitation. Mild 
pulmonary artery systolic hypertension. Increased PCWP. 
-Patient should have a colonoscopy as an outpatient
-Patient had been taking 400-800 mg ibuprofen per day for back 
pain and was advised to stop taking all NSAIDs given melena

Sincerely,
Your ___ team

 
Followup Instructions:
___